US09421205B2
(j) tert-Butyl 4-(4-((4-(2-(3-(2-amino-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I124)
1-Hydroxybenzotriazole (20.4 mg, 0.151 mmol), EDCl (29.0 mg, 0.151 mmol) and N,N-diisopropylethylamine (0.192 mL, 1.10 mmol) were added to a solution of lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)pyridin-3-yl)acetate (I123) (81.3 mg, 0.137 mmol) in dry THF (6 mL) and dry DMF (1 mL) under an atmosphere of nitrogen. Ammonium carbonate (106 mg, 1.10 mmol) was added in one portion to the stirred reaction mixture after 10 minutes. The reaction was left to stir at room temperature for 18 hours. The volatiles were removed in vacuo and the residue was diluted with EtOAc (50 mL) and washed with saturated NaHCO3 (50 mL). The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine (50 mL) and dried over Na2SO4. After filtration the solvent was removed in vacuo to afford a pale yellow oil. The crude material was purified by column chromatography on silica gel (0-100% EtOAc in petroleum benzine 40-60° C.) to afford the title compound (I124) (66.3 mg, 83%) as a white semi-solid; 1H NMR (400 MHz, CDCl3) δ 8.50 (d, J=0.4 Hz, 1H), 8.49 (dd, J=4.8, 1.7 Hz, 1H), 7.62 (s, 1H), 7.54 (dd, J=7.7, 1.7 Hz, 1H), 7.51 (d, J=8.7 Hz, 2H), 7.19-7.13 (m, 3H), 5.40-5.35 (m, 2H), 4.23 (s, 2H), 3.68 (s, 2H), 3.41-3.35 (m, 2H), 3.32-3.24 (m, 2H), 2.80 (t, J=12.6 Hz, 2H), 2.63 (tt, J=12.0, 3.4 Hz, 1H), 1.81 (d, J=12.5 Hz, 2H), 1.65-1.57 (m, peaks obscured by solvent), 1.48 (s, 9H). LCMS Method C: rt 5.25 min; m/z 607 [M+Na]+, 585 [M+H]+, 529 [M-tButyl+2H]+.

reactant | 1-Hydroxybenzotriazole | 0.151 mmol, 20.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | 0.151 mmol, 29.0 mg | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 1.10 mmol, 0.192 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)pyridin-3-yl)acetate | 0.137 mmol, 81.3 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=NC=CC=C1CC(=O)[O-])C(F)(F)F.[Li+]
reactant | Ammonium carbonate | 1.10 mmol, 106 mg | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-((4-(2-(3-(2-amino-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | NC(CC=1C(=NC=CC1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C30H35F3N6O3
